US09290500B2
To a solution of (rac)-methyl rel-5-[7-({(1R,2S,3R,4R)-2,3-dihydroxy-4-[(sulfamoyloxy)methyl]cyclopentyl}amino)pyrazolo[1,5-a]pyrimidin-2-yl]-2-naphthoate (0.048 g, 0.091 mmol) in DMF (2.0 mL, 26 mmol) is added 1.0 M NaOH (1.0 mL, 1.0 mmol). The mixture is stirred at room temperature for 1.5 hr and then concentrated in vacuo as an azeotropic mixture with toluene. The crude material is purified by preparative HPLC to provide (rac)-rel-5-[7-({(1R,2S,3R,4R)-2,3-dihydroxy-4-[(sulfamoyloxy)methyl]cyclopentyl}amino)pyrazolo[1,5-a]pyrimidin-2-yl]-2-naphthoic acid (4.0 mg, yield 8.5%). LCMS: (AA) M+1 514; 1H NMR (400 MHz, DMSO) δ 8.71-8.63 (m, 1H), 8.55 (d, J=8.9 Hz, 1H), 8.25-8.16 (m, 2H), 8.09-7.98 (m, 1H), 7.98-7.90 (m, 1H), 7.89-7.79 (m, 1H), 7.75-7.63 (m, 1H), 7.55-7.25 (m, 1H), 6.79 (s, 1H), 6.33 (d, J=5.4 Hz, 1H), 5.2-4.6 (m, 2H), 4.18-4.05 (m, 1H), 4.06-3.90 (m, 3H), 3.80-3.68 (m, 1H), 2.40-2.15 (m, 2H), 1.56-1.36 (m, 1H).

reactant | (rac)-methyl rel-5-[7-({(1R,2S,3R,4R)-2,3-dihydroxy-4-[(sulfamoyloxy)methyl]cyclopentyl}amino)pyrazolo[1,5-a]pyrimidin-2-yl]-2-naphthoate | 0.091 mmol, 0.048 g | O[C@H]1[C@@H](C[C@@H]([C@H]1O)COS(N)(=O)=O)NC1=CC=NC=2N1N=C(C2)C2=C1C=CC(=CC1=CC=C2)C(=O)OC | C24H25N5O7S
reactant | DMF | 26 mmol, 2.0 mL | CN(C)C=O | C3H7NO
reactant | NaOH | 1.0 mmol, 1.0 M, 1.0 mL | [OH-].[Na+]
product | (rac)-rel-5-[7-({(1R,2S,3R,4R)-2,3-dihydroxy-4-[(sulfamoyloxy)methyl]cyclopentyl}amino)pyrazolo[1,5-a]pyrimidin-2-yl]-2-naphthoic acid | 4.0 mg, yield 8.5% | O[C@H]1[C@@H](C[C@@H]([C@H]1O)COS(N)(=O)=O)NC1=CC=NC=2N1N=C(C2)C2=C1C=CC(=CC1=CC=C2)C(=O)O | C23H23N5O7S
